Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:2](=[O+:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])[H:12].[C:1]([H:8])([H:9])([H:10])[H:11],73.3762170235088
[N:1](=[C:2]=[N:3][C:4](=[N:5][O:6][H:7])[H:9])[H:8]>>[N:1]([c+:2]1[n-:3][c:4]([H:9])[n:5][o:6]1)([H:7])[H:8],41.5914638857628
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3](=[C:4]([H:12])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18].[H:9][H:13]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9],35.469900727569694
[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]([C:5]([C:4]1=[C+:3][C:2]1([H:8])[H:9])=[N-:6])[H:7],107.042448844603
[C:1]([C:2]12[C:3]([H:11])([H:12])[C:4]([H:13])([C:5]1([H:14])[H:15])[C:6]([H:16])=[C:7]2[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:14])[C:3]([H:11])([H:12])[C@@:4]([C:5][H:15])([H:13])[C:6]([H:16])=[C:7]1[H:17])([H:8])([H:9])[H:10],68.28835974594561
[O:1]=[C:2]([C@@:7]1([H:13])[C@:5]([O+:4]=[C-:3][H:9])([H:10])[C:6]1([H:11])[H:12])[H:8]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13],3.578660231340791
[C:1]([c:2]1[n:3][o:4][c:5](=[O:6])[o:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]#[N:3])([H:8])([H:9])[H:10].[O:4]1[C:5](=[O:7])[O:6]1,61.2079150684233
[C:1]([C:2]([C:3](=[C:5]=[N:6][O:4][H:13])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],42.48487066628222
[C:1]([C:2]12[C:3]([H:11])([H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]1([H:16])[H:17])[O:7]2)([H:8])([H:9])[H:10]>>[C:1](=[C:2]1[C:3]([H:11])([H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([O:7][H:9])[C:6]1([H:16])[H:17])([H:8])[H:10],65.08681182169289
[C-:3]([O+:4]=[C:5]([H:10])[H:11])([H:8])[H:9].[N:1](=[C:2]=[O:6])[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7],4.182107181343497
[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1>>[O:1]=[C:4]([C:3](=[C:2]=[N:7][C:6](=[N:5][H:10])[H:11])[H:8])[H:9],114.29341176996401
[C:1]([C:2](=[C:3]=[C:4]=[C:5]=[O:6])[H:10])([H:7])([H:8])[H:9].[H:11][H:12]>>[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],34.4942299457539
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2]([C:3]([O:4][H:14])([H:12])[H:13])=[N:5]/[C:6](=[O:7])[H:16])([H:8])([H:9])[H:10].[H:11][H:15],88.9742646424281
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:4][C:3]([O+:6]=[C-:5][N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],124.47776711664301
[C:1]([C@@:2]1([C:5](=[O:6])[H:12])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O:4][H:12])([H:10])[H:11])=[C:5]=[O:6])([H:7])([H:8])[H:9],64.86997474088311
[C:1]([O:2][H:14])([H:7])([H:8])[H:9].[C:3]([C:4]([H:11])([H:12])[H:13])(=[C:5]=[O:6])[H:10]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],60.473362097491396
[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1](=[O:2])([H:8])[H:9].[C:3]1([H:11])=[C:7]([H:17])[C:4]1([C:5]([C:6]([H:10])([H:15])[H:16])([H:13])[H:14])[H:12],82.1479856705892
[C:1]([C:2]([C:3]#[C:4][C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3]=[C:4]=[C:5]([H:12])[H:13])[H:9])([H:6])([H:7])[H:8].[H:10][H:11],68.3086317916133
[C-:1]([C:2]([C+:3]([O:5][H:15])[H:11])([H:9])[H:10])([H:7])[H:8].[C:4]([H:6])([H:12])([H:13])[H:14]>>[C:1]([C:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([O:5][H:15])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],9.991275557574397
[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[C:3][C@@:4]1([C:5]#[N:6])[H:7],98.20761926647421
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@:4]1([O+:5]=[C-:6][H:12])[H:11],105.555627119826
[N:1]#[C:2][C:3]([C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[C:3](=[C:4]([C:5]#[N:6])[H:9])([H:7])[H:8].[N:1]#[C:2][H:10],96.9945608633354
[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:8])([H:9])[H:10].[C:2](=[C:3]([H:13])[H:14])([H:11])[H:12],74.29213696590121
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([C:5](=[O:6])[H:12])[O:3][C:4]1([H:10])[H:11])([H:7])([H:8])[H:9],93.85247860549231
[H:13][H:14].[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5][C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8],15.374916828134502
